US07977344B2
2-[(2-Methyl butyl)oxy]-8-methoxy-9-(tetrahydro-2H-pyran-4-ylmethyl)-9H-Purin-6-amine
To a solution of 2-[(2-methylbutyl)oxy]-8-methoxy-9H-purin-6-amine (109 mg) in dry DMF (1.86 mL) was added potassium carbonate (165 mg) and the mixture was stirred at 60° C. for 90 mins. The mixture was cooled to room temperature and 4-(bromomethyl)tetrahydro-2H-pyran (59 mg) was added. The reaction was stirred at 50° C. overnight and was cooled to room temperature. The mixture was taken up in EtOAc (15 mL) and washed with water (2×10 mL). The organics were separated, dried over MgSO4, filtered and concentrated in vacuo to give a yellow viscous oil. The material was purified by C18 reverse phase chromatography (ISCO) using water (0.1% formic acid)-acetonitrile (0.05% formic acid) as eluent (20-60%) to afford the title compound as a yellow oil (41 mg).

reactant | 2-[(2-methylbutyl)oxy]-8-methoxy-9H-purin-6-amine | 109 mg | CC(COC1=NC(=C2N=C(NC2=N1)OC)N)CC | C11H17N5O2
reactant | potassium carbonate | 165 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(bromomethyl)tetrahydro-2H-pyran | 59 mg | BrCC1CCOCC1 | C6H11BrO
solvent | DMF | 1.86 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
product | 2-[(2-Methyl butyl)oxy]-8-methoxy-9-(tetrahydro-2H-pyran-4-ylmethyl)-9H-Purin-6-amine | 41 mg | CC(COC1=NC(=C2N=C(N(C2=N1)CC1CCOCC1)OC)N)CC | C17H27N5O3
